US05536737
(S)-2-[[(S)-2-(4-Hydroxy-1-oxobutyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide (Compound 16)
4N Hydrochloric acid (1,4-dioxane solution, 20 ml) was added to (S)-1-(tert-butoxycarbonyl)-2-[1-hydroxy-4(phenylmethyloxy)butyl]pyrrolidine (high polar isomer, 3.00 g) and the mixture was allowed to stand at room temperature for 30 minutes. The reaction mixture was concentrated and the residue was reacted with N-(benzylamincarbonyl)-L-proline obtained by stirring L-proline (0.99 g), benzyl isocyanate (0.97 g) and triethylamine (0.87 g) in DMF (10 ml) at room temperature for 1 hour, in the same manner as in Example 5-b), to give the title compound (2.20 g).

reactant | Hydrochloric acid | 4N, 20 ml | Cl | ClH
reactant | (S)-1-(tert-butoxycarbonyl)-2-[1-hydroxy-4(phenylmethyloxy)butyl]pyrrolidine | 3.00 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(CCCOCC1=CC=CC=C1)O | C20H31NO4
reactant | L-proline | 0.99 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | benzyl isocyanate | 0.97 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.87 g | C(C)N(CC)CC | C6H15N
product | (S)-2-[[(S)-2-(4-Hydroxy-1-oxobutyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 2.20 g | OCCCC(=O)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C21H29N3O4
